US04439514
2,4-Hexadiyn-1,6-diol-bis-(2-nitro-4-trifluoromethylphenyl)ether
Reaction of 2,4-hexadiyne-1,6-diol (1 g) with 4-fluoro-3-nitro-benzotrifluoride (4 g.) following the procedure of Example 3 yielded the desired product. Recrystallization from ethanol gave pale yellow needles. (1.1 g., 25%) m.p. 137° C. I.R. (KBr): 1620(NO2), 1120 682 (CF3)cm-1.

reactant | 2,4-hexadiyne-1,6-diol | 1 g | C(C#CC#CCO)O | C6H6O2
reactant | 4-fluoro-3-nitro-benzotrifluoride | 4 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
product | 2,4-Hexadiyn-1,6-diol bis-(2-nitro-4-trifluoromethylphenyl)ether | C(C#CC#CCO)O.[N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | InChI=1S/C14H6F6N2O5.C6H6O2/c15-13(16,17)7-1-3-11(9(5-7)21(23)24)27-12-4-2-8(14(18,19)20)6-10(12)22(25)26;7-5-3-1-2-4-6-8/h1-6H;7-8H,5-6H2
